US08871756B2
N-[(3-Aminooxetan-3-yl)methyl]-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-amine
The title compound was prepared in analogy to Example 57-1 in Scheme 23 by using 2,4-dichloroquinazoline, 3-(aminomethyl)oxetan-3-amine and 2,3,4,5-tetrahydro-1,4-benzothiazepine 1-oxide. MS obsd. (ESI+) [(M+H)+] 410, 1H NMR (400 MHz, CD3OD) δ ppm 7.91-7.90 (t, J=7.2, 0.8 Hz, 1 H), 7.81-7.74 (m, 2 H), 7.58-7.54 (m, 1 H), 7.51-7.43 (m, 3 H), 7.16-7.12 (m, 1 H), 5.32-5.28 (d, J=15.2 Hz, 2 H), 4.68-4.53 (m, 6 H), 4.10 (s, 2 H), 3.37-3.34 (m, 2 H).

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | 3-(aminomethyl)oxetan-3-amine | NCC1(COC1)N | C4H10N2O
reactant | 2,3,4,5-tetrahydro-1,4-benzothiazepine 1-oxide | S1(CCNCC2=C1C=CC=C2)=O | C9H11NOS
product | N-[(3-Aminooxetan-3-yl)methyl]-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-amine | NC1(COC1)CNC1=NC(=NC2=CC=CC=C12)N1CCS(C2=C(C1)C=CC=C2)=O | C21H23N5O2S
